US08859773B2
Step 2: ethyl 1-tert-butyl-3-iodo-1H-pyrazole-4-carboxylate
To a solution of ethyl 3-iodo-1H-pyrazole-4-carboxylate (1.10 g, 3.91 mmol) in tert-butanol (5 mL) was added sulfuric acid (0.40 mL, 4.18 mmol, 18 M). The reaction was heated to 100° C. and stirred for 3 hours. The reaction was cooled to room temperature and diluted with ethyl acetate (100 mL) and water (25 mL). The pH was adjusted to 8 with saturated aqueous sodium bicarbonate. The layers were separated and the organics were dried over sodium sulfate, filtered, and concentrated. Purification by flash column chromatography (7-60% ethyl acetate/heptanes) gave 2 regioisomeric products.

reactant | ethyl 3-iodo-1H-pyrazole-4-carboxylate | 3.91 mmol, 1.10 g | IC1=NNC=C1C(=O)OCC | C6H7IN2O2
reactant | sulfuric acid | 4.18 mmol, 18 M, 0.40 mL | S(O)(O)(=O)=O | H2O4S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tert-butanol | 5 mL | C(C)(C)(C)O | C4H10O
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 25 mL | O | H2O
product | ethyl 1-tert-butyl-3-iodo-1H-pyrazole-4-carboxylate | C(C)(C)(C)N1N=C(C(=C1)C(=O)OCC)I | C10H15IN2O2
